US07265246B2
A. 3-Thiazol-2-yl-acrylic acid
Mix 2-formyl thiazole (10.0 g, 88.4 mmol) and malonic acid (9.2 g, 88.4 mmol). Dissolve in pyridine (7.2 mL, 88.5 g) and add 3 drops of piperidine. Heat the mixture at 100° C. under nitrogen for 3 hours, cool, dilute with water, and filter the solids to afford 1.7 g of the title compound as a white solid. Concentrate the filtrate, acidify with 1N HCl, extract with ethyl acetate (2×100 mL), wash with brine (100 mL), dry (sodium sulfate), filter and concentrate to afford an additional 4.8 g of 3-thiazol-2-yl-acrylic acid MS: m/e=156 (MH+).

reactant | 2-formyl thiazole | 88.4 mmol, 10.0 g | C(=O)C=1SC=CN1 | C4H3NOS
reactant | malonic acid | 88.4 mmol, 9.2 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 7.2 mL, 88.5 g | N1=CC=CC=C1 | C5H5N
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 3-Thiazol-2-yl-acrylic acid | 1.7 g | S1C(=NC=C1)C=CC(=O)O | C6H5NO2S
